US07173028B2
4-[2-(methylamino)ethyl]pyridine (34.4 g) and 29.18 g of chloroacetic acid-dimethylamide are dissolved in 200 ml of methanol. After the addition of 20 g of sodium bicarbonate the mixture is refluxed for 5 hours with stirring. For working up the mixture is combined with 1000 ml of tetrahydrofuran, decanted off from the precipitated salts and the solution is filtered through active charcoal. After the limination of the solvent, N,N-dimethyl-2-[methyl-(2-pyridine-4-yl-ethyl)-amino]-acetamide is obtained as a crude product.

reactant | 4-[2-(methylamino)ethyl]pyridine | 34.4 g | CNCCC1=CC=NC=C1 | C8H12N2
reactant | chloroacetic acid-dimethylamide | 29.18 g | CN(C(CCl)=O)C | C4H8ClNO
reactant | sodium bicarbonate | 20 g | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
product | N,N-dimethyl-2-[methyl-(2-pyridine-4-yl-ethyl)-amino]-acetamide | CN(C(CN(CCC1=CC=NC=C1)C)=O)C | C12H19N3O
